* Z:\mnt\design.r\spice\examples\3210-1.asc
V1 N005 0 3.6
C1 N007 N009 2.2µ
C2 N011 N013 2.2µ
R1 N016 0 30.1K
R2 N017 0 24.3K
C3 N006 0 2.2µ
V2 N001 0 PULSE(0 3.3 0 50n 50n 400u 500u)
V3 N003 0 PULSE(0 3.3 1.5m 50n 50n 1.5m 2m)
A1 0 N001 0 N003 0 0 N002 0 OR Trise=10n Vhigh=3.3
D1 N006 N008 NSPW500BS
XU1 N007 N006 N004 N008 N010 N012 N014 N016 N017 N002 N015 0 N013 N009 N005 N011 LTC3210-1
D2 N006 N010 NSPW500BS
D3 N006 N012 NSPW500BS
D4 N006 N014 NSPW500BS
D5 N006 N015 NSPW500BS
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 15m startup
.lib LTC3210-1.sub
.backanno
.end
